US07915411B2
N′-(5-Cyano-2-ethylsulfanyl-6-methylsulfanyl-pyrimidin-4-yl)-N,N-dimethyl-formamidine
The title compound was prepared from the reaction of 4-Amino-2-ethylsulfanyl-6-methylsulfanyl-pyrimidine-5-carbonitrile with N,N-dimethylformamide dimethyl acetal using the procedure from Example 156B to provide the title compound.

reactant | 4-Amino-2-ethylsulfanyl-6-methylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=NC(=C1C#N)SC)SCC | C8H10N4S2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
product | N′-(5-Cyano-2-ethylsulfanyl-6-methylsulfanyl-pyrimidin-4-yl)-N,N-dimethyl-formamidine | C(#N)C=1C(=NC(=NC1SC)SCC)N=CN(C)C | C11H15N5S2
